US04117130
An 86.3 g. sample of 6-(p-bromophenyl)-4,5-dihydro-3(2H)-pyridazinone (prepared as in U.S. Pat. No. 3,689,652, Example 4) is dissolved in 500 ml. of glacial acetic acid by heating to 80° C. with continuous stirring. A solution of 60 g. of bromine in 80 ml. of acetic acid is added dropwise at 75°-80° C. over a one hour period. A solid is separated near the end of the addition. The reaction mixture is heated with stirring on the steam bath for half an hour more, then is poured into 3 liters of cracked ice-water. The white solid formed is collected by filtration and is air dried. The product is then recrystallized from ethyl alcohol to afford 6-(p-bromophenyl)-3(2H)-pyridazinone.

reactant | 6-(p-bromophenyl)-4,5-dihydro-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H9BrN2O
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(p-bromophenyl)-3(2H)-pyridazinone | BrC1=CC=C(C=C1)C=1C=CC(NN1)=O | C10H7BrN2O
